US05776971
A solution of 2-carbomethoxyamino-benzimidazole (5.0 g, 0.026 mole) in chlorosulfonic acid (35.00 mL) was stirred at 0° C. for 30 minutes and at room temperature for 3 hours. The resulting dark colored reaction mixture was poured into an ice-water mixture (200 mL), and stirred at room temperature for 30 minutes. The resulting precipitate was filtered and washed with cold water (500 mL). The solid was dried overnight under high vacuum in a desiccator over NaOH pellets to give 5-chlorosulfonyl-2-carbomethoxyamino-benzimidazole (5.9 g, 78%) as a grey powder. 1H NMR (DMSO-d6) d: 3.89 (s, 3H), 7.55 (d, J=8.4 Hz, 1H), 7.65 (d, J=8.4 Hz, 1H), 7.88 (s, 1H). (German Patent DE 3826036)

reactant | 2-carbomethoxyamino-benzimidazole | 0.026 mole, 5.0 g | C(=O)(OC)NC=1NC2=C(N1)C=CC=C2 | C9H9N3O2
reactant | chlorosulfonic acid | 35.00 mL | ClS(=O)(=O)O | ClHO3S
product | 5-chlorosulfonyl-2-carbomethoxyamino-benzimidazole | 5.9 g, 78% | ClS(=O)(=O)C1=CC2=C(N=C(N2)NC(=O)OC)C=C1 | C9H8ClN3O4S
